US04644005
A1. 1-ethyl-5-formyloxindole
To a solution of 32.2 g. (0.2 mole) of 1-ethyloxindole in 200 ml. of methylene chloride was added 44 ml. (0.4 mole) of titanium tetrachloride followed by 22.6 ml. (0.25 mole) of dichloromethyl methyl ether. The reaction was stirred for 10.5 days at 25° C. followed by the addition of additional titanium tetrachloride and dichloromethyl methyl ether every 48 hours. The reaction was poured onto 1 l. of ice and water and extracted with methylene chloride. Concentration of the dried extract gave the crude product which was recrystallized from diethyl ether, 28.6 g. (76% yield), m.p. 126°-127° C.

reactant | 1-ethyloxindole | 0.2 mole | C(C)N1C(CC2=CC=CC=C12)=O | C10H11NO
reactant | dichloromethyl methyl ether | 0.25 mole | COC(Cl)Cl | C2H4Cl2O
catalyst | titanium tetrachloride | 0.4 mole | [Ti](Cl)(Cl)(Cl)Cl
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-ethyl-5-formyloxindole | 76% yield | C(C)N1C(CC2=CC(=CC=C12)C=O)=O | C11H11NO2
